US07691882B2
3-(3-(4-(5-Methyl-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
4-(5-(2-Amino-pyridin-3-yl)isoxazol-3-ylmethyl)-phenol (50 mg, 0.19 mmol) described in Manufacturing Example 5-1-1 and the 2-chloromethyl-5-methyl-pyridine (32 mg, 0.23 mmol) described in Manufacturing Example 42-1-2 were used to obtain the title compound (23 mg, 33%) according to the methods similar to those of Example 10.

reactant | 4-(5-(2-Amino-pyridin-3-yl)isoxazol-3-ylmethyl)-phenol | 0.19 mmol, 50 mg | NC1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
reactant | 2-chloromethyl-5-methyl-pyridine | 0.23 mmol, 32 mg | ClCC1=NC=C(C=C1)C | C7H8ClN
product | 3-(3-(4-(5-Methyl-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 23 mg, 33% | CC=1C=CC(=NC1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C22H20N4O2
